US07476521B2
CoA Enzymatic Reaction Without Using a Coupling System
Palmitoyl CoA (10 mg) and 1 mg of L-serine were dissolved in 5 mL of 100 mM HEPES-NaOH buffer (containing 10 μM PLP; pH 8.0) and well stirred using a magnetic stirrer. While the stirring speed was reduced to such an extent that a mild mixing was resulted, 0.5 mL of a crude SPT enzyme solution was added and the mixture was made to react at 37° C. for 24 hours. The solution was made alkaline with 1 mL of 2N ammonia solution and the product in the solution was extracted and recovered with 5 mL of chloroform/methanol (2:1, (v/v).). The extract liquid was filtered, concentrated appropriately and analyzed by the same manner as in Example 3 whereupon the produced amount of 3-ketodihydrosphingosine was about 0.02 mg.

reactant | Palmitoyl CoA | 10 mg | C(CCCCCCCCCCCCCCC)(=O)SCCNC(CCNC([C@@H](C(COP(OP(OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)OP(=O)(O)O)(=O)O)(=O)O)(C)C)O)=O)=O | C37H66N7O17P3S
reactant | L-serine | 1 mg | N[C@@H](CO)C(=O)O | C3H7NO3
reactant | ammonia | 2N, 1 mL | N | H3N
solvent | HEPES NaOH | 100 mM, 5 mL, pH 8.0 | C1CN(CCN1CCO)CCS(=O)(=O)O.[OH-].[Na+]
product | CoA | CC(C)(COP(=O)(O)OP(=O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N2C=NC3=C2N=CN=C3N)O)OP(=O)(O)O)[C@H](C(=O)NCCC(=O)NCCS)O | C21H36N7O16P3S
